US04072696
A mixture of 2.0 g. of 4-acetamido-3-nitrophenol, 2.2 g. of β-bromophenetole, 3 g. of potassium carbonate, and 20 ml. of dimethylformanide is heated under nitrogen for 16 hours at 110° C. The mixture is cooled and poured into ice water. The precipitated solid is collected, washed with water, and dried to give 2-nitro-4-(2-phenoxyethoxy)-aniline.

reactant | 4-acetamido-3-nitrophenol | C(C)(=O)NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C8H8N2O4
reactant | β-bromophenetole | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-nitro-4-(2-phenoxyethoxy)-aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)OCCOC1=CC=CC=C1 | C14H14N2O4
